US06380288B1
Synthesis of N′-(2-furylmethylene)benzenesulfonohydrazide
A four neck flask (1 liter) equipped with a thermometer, a reflux condenser and a stirrer was charged with 86 g (0.5 mol) of benzenesulfonohydrazide and 700 ml of methanol, and 57.6 g (0.6 mol) of furfural was dropwise added thereto in one hour while stirring at room temperature and heated under reflux for about 5 hours. The reaction liquid was cooled down to 20° C. or lower, and then crystal was filtered off and dried under reduced pressure, whereby white crystal was obtained.

reactant | benzenesulfonohydrazide | 0.5 mol, 86 g | C1(=CC=CC=C1)S(=O)(=O)NN | C6H8N2O2S
reactant | furfural | 0.6 mol, 57.6 g | C(C1=CC=CO1)=O | C5H4O2
solvent | methanol | 700 ml | CO | CH4O
product | N′-(2-furylmethylene)benzenesulfonohydrazide | O1C(=CC=C1)C=NNS(=O)(=O)C1=CC=CC=C1 | C11H10N2O3S
